US04465844
Benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine methyl ester
In 300 ml of methanol was suspended 10 g of benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine and, under cooling at -20° C. or below, 10 g of thionyl chloride was added dropwise. The mixture was stirred at 0°-5° C. for 4 hours and then at room temperature for 20 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed with water, dried over sodium sulfate and concentrated under reduced pressure. The concentrate was chromatographed on a silica gel column and eluted with toluene-acetone (4:1). The eluate was concentrated under reduced pressure and to the residue was added ethyl ether to give crystals. Yield 5.8 g.

reactant | benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine | 10 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1C(NC(C1)=O)=O | C14H14N2O6
reactant | thionyl chloride | 10 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 300 ml | CO | CH4O
product | Benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine methyl ester | COC(C(NC(=O)OCC1=CC=CC=C1)C1C(NC(C1)=O)=O)=O | C15H16N2O6
